US07608592B2
Ethyl chloroformate (4.3 mL, 44.5 mmol) was added drop wise at 0° C. to a solution of 3-Ethoxy cinnamic acid (5.71 g, 29.7 mmol) and triethylamine (8.3 mL, 59.4 mmol) in acetone (35 mL). After 1 h at 0° C., aqueous sodium azide (3.1 g, 47.5 mmol, 16 mL water) was added dropwise and the reaction mixture was stirred at 23° C. for 16 h. Water (50 mL) was added to the mixture and the volatile was removed under vacuo. The resulting slurry was extracted with toluene (3×25 mL) and the combined organic layers were dried (MgSO4). The dried solution was filtered and added dropwise at 190° C. to a solution of diphenylmethane (25 mL) and tributylamine (14.2 mL, 59.4 mmol). The toluene was distilled off as added. After complete addition, the reaction temperature was raised to 210° C. for 2 h. After cooling, the precipitated product was collected by filtration and washed with hexanes and dried under vacuum to yield 6-Ethoxy-2H-isoquinolin-1-one (1.92 g, 10.2 mmol, 34% yield). MS m/z 190 (M++H).

reactant | Ethyl chloroformate | 44.5 mmol, 4.3 mL | ClC(=O)OCC | C3H5ClO2
reactant | 3-Ethoxy cinnamic acid | 29.7 mmol, 5.71 g | C(C)OC=1C=C(C=CC(=O)O)C=CC1 | C11H12O3
reactant | triethylamine | 59.4 mmol, 8.3 mL | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 47.5 mmol, 16 mL, 3.1 g | [N-]=[N+]=[N-].[Na+]
reactant | diphenylmethane | 25 mL | C1(=CC=CC=C1)CC1=CC=CC=C1 | C13H12
reactant | tributylamine | 59.4 mmol, 14.2 mL | C(CCC)N(CCCC)CCCC | C12H27N
solvent | acetone | 35 mL | CC(=O)C | C3H6O
solvent | Water | 50 mL | O | H2O
product | 6-Ethoxy-2H-isoquinolin-1-one | 10.2 mmol, 1.92 g, 34% yield | C(C)OC=1C=C2C=CNC(C2=CC1)=O | C11H11NO2
